US05246965
Ethanol (2 B anhydrous, 16.5 L) is cooled with an ice-salt bath to 0° C. Anhydrous hydrogen chloride is introduced until the solution is saturated (~8 hours). At this time the internal temperature is 5° C. To this is added 4-[5-(2-methoxyphenoxy)pentoxy]benzonitrile (1.64 kg, 5.26 mol) as a solid within a period of 10 minutes. At this point additional hydrogen chloride is introduced to maintain saturation at 5° C. for another 8 hours. Almost complete solution is achieved and the color is yellow. The reaction mixture is stirred for a total of 84 hours and the temperature range maintained is 5°-10° C. The resulting slurry is diluted with diethyl ether (52 L) to complete precipitation. The slurry is stirred for 1 hours and filtered. The filter cake is washed with diethyl ether (3×4 L) and air-dried for 1/2 hour to yield ethyl 4-[5-(2-methoxyphenoxy)pentoxy]benzenecarboximidate hydrochloride which is used directly in the next step.

reactant | Ethanol | 16.5 L | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | 4-[5-(2-methoxyphenoxy)pentoxy]benzonitrile | 5.26 mol, 1.64 kg | COC1=C(OCCCCCOC2=CC=C(C#N)C=C2)C=CC=C1 | C19H21NO3
solvent | diethyl ether | 52 L | C(C)OCC | C4H10O
product | ethyl 4-[5-(2-methoxyphenoxy)pentoxy]benzenecarboximidate hydrochloride | Cl.COC1=C(OCCCCCOC2=CC=C(C=C2)C(OCC)=N)C=CC=C1 | InChI=1S/C21H27NO4.ClH/c1-3-24-21(22)17-11-13-18(14-12-17)25-15-7-4-8-16-26-20-10-6-5-9-19(20)23-2;/h5-6,9-14,22H,3-4,7-8,15-16H2,1-2H3;1H
